US07700655B2
(4) 5-Isobutyryl-N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxybenzamide
Using 5-isobutyryl-2-methoxybenzoic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-isobutyryl-2-methoxybenzoic acid | C(C(C)C)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C12H14O4
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | 5-Isobutyryl-N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxybenzamide | Yield: 61.4% | C(C(C)C)(=O)C=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)OC | C20H17F6NO3
